US04480110
673 g of N,N'-di-(3-methyl phenyl)-urea, 147 g of methyl carbamate, 475 g of methanol and 1500 g of o-xylene were reacted for 2 hours at 200° C. in the pressure apparatus described in Example 1, the ammonia given off being removed. After cooling, 50 g of urea were added to the mixture which was then reacted for 6.0 hours at 200° C., with removal of the formed ammonia given off. After cooling and venting of the apparatus, the mixture was removed, filtered and analyzed by liquid chromatography (HPLC). After calibration with an authentic sample, a yield of 660 g (71% of the theoretical yield) of N-(3-methyl phenyl)-carbamic acid methyl ester was determined.

reactant | N,N'-di-(3-methyl phenyl)-urea | 673 g | CC=1C=C(C=CC1)NC(=O)NC1=CC(=CC=C1)C | C15H16N2O
reactant | methyl carbamate | 147 g | C(N)(OC)=O | C2H5NO2
reactant | methanol | 475 g | CO | CH4O
reactant | ammonia | N | H3N
solvent | o-xylene | 1500 g | CC=1C=CC=CC1C | C8H10
product | N-(3-methyl phenyl)-carbamic acid methyl ester | COC(NC1=CC(=CC=C1)C)=O | C9H11NO2
